Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
chest pain 
 
Major Surgical or Invasive Procedure:
exercise stress test - ___
 
History of Present Illness:
The patient is a ___ year-old female with HTN, hyperlipidemia, 
DM2, CAD s/p LAD stent in ___ admitted with chest pain. The 
patient reports sudden onset chest pain beginning yesterday with 
no precipitants (exertion, muscle strain). Pain is described as 
dull and sharp pressure, located mainly in L chest with 
radiation to shoulder. She reports brief LUE numbness as well 
(has occurred in the past and has not been suspected to be 
anginal per OMR notes). Pain is constant at ___ but worse with 
deep inspiration, non-exertional. The patient reports no SOB 
with stable DOE. She reported above symptoms to her PCP ___. 
EKG done in office showed no new changes concerning for 
ischemia. Given risk factors the patient was referred to ED for 
further evaluation.  
.  
In the ED, VSS. Exam was significant for reproducible CP in L 
chest. EKG showed no acute ischemic ST-T wave changes from prior 
on ___. CXR negative. Cardiac enzymes were negative x 1. She 
received lopressor 5mg IV x 1 and 25mg po, and morphine 2mg IV x 
1. The patient reported NTG given in ambulance helped pain 
(reduced to ___, but also received ASA at that time.  
.  
Of note, the patient had a recent admission on ___ with similar 
CP. She was diagnosed with costochondritis and advised to take 
short course of NSAIDs. She reports CP is similar to that 
episode. CTA was negative for PE at that time.  
.  
Currently the patient feels well with no complaints. CP 
completely resolved in ED.  
.  
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. She denies recent fevers, chills or 
rigors. All of the other review of systems were negative.  
.  
*** Cardiac review of systems is notable for absence of current 
chest pain, paroxysmal nocturnal dyspnea, orthopnea, ankle 
edema, palpitations, syncope or presyncope.  

 
Past Medical History:
* Coronary artery disease status post left anterior descending 
coronary artery stent x2 in ___  
- Negative stress-MIBI ___  
- Negative stress-ECHO ___  
- Negative stress-ECHO ___  
- stress-ECHO ___: ischemic EKG changes in absence of 
angina; no inducible ischemia on echo  
* Anemia thought to be ___ gastritis  
* Type 2 diabetes.  
* Hypertension.  
* high cholesterol  
* Arthritis.  
* Depression and anxiety.  
* Degenerative disc disease.  
* Status post hysterectomy.  

 
Social History:
___
Family History:
Father with stroke in ___, MI in ___, mother with DM and CHF. 
brother recently died of lymphoma 
 
Physical Exam:
VS - T 98.6 BP 127/71 Hr 78 RR 24 O2 96% RA  
Gen: obese middle-aged female in NAD. Oriented x3. Mood, affect 
pleasant, appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple, unable to assess JVP  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi. CP non-reproducible at this time.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: No c/c/e. 2+ radial and DP pulses
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  

 
Pertinent Results:
___ 04:00PM BLOOD CK(CPK)-145* CK-MB-6 cTropnT-<0.01
___ 12:50AM BLOOD CK(CPK)-115 CK-MB-5 cTropnT-<0.01
___ 06:15AM BLOOD CK(CPK)-106 CK-MB-5 cTropnT-<0.01
___ 04:00PM BLOOD WBC-7.9 RBC-4.28 Hgb-11.3* Hct-34.3* 
MCV-80* MCH-26.3* MCHC-32.9 RDW-14.1 Plt ___
___ 04:00PM BLOOD Glucose-99 UreaN-12 Creat-0.8 Na-141 
K-4.3 Cl-104 HCO3-25 AnGap-16
.
MEDICAL DECISION MAKING  
EKG demonstrated NSR, LAD, TWF/ TWI in III, avF, and V3 with no 
significant change compared with prior dated ___  
.
___ STRESS MIBI:
STRESS: IMPRESSION: Fair exercise tolerance. Non-specific EKG 
changes in the absence of anginal type symptoms. 
NUCLEAR: Normal myocardial perfusion on scintigraphy at the 
level of exercise achieved. Normal left ventricular size and 
systolic function (LVEF 67%).

 
Brief Hospital Course:
The patient is a ___ year-old female with HTN, hyperlipidemia, 
DM2, CAD s/p LAD stent in ___ admitted with chest pain.  
.  
#. Chest pain/ CAD: The patient has known CAD with prior cath in 
___ showing 1VD in LAD s/p stenting. She had a previous 
negative stress MIBI in ___. The patient now presents with 
atypical chest pain that has several musculoskeletal qualities 
(i.e.  sharp nature, reproducibility on ED exam) in the absence 
of new EKG changes. Per prior notes, LUE numbness has been 
present and was not suspected to be anginal given lack of 
relation to exertion. The patient's presentation was felt to be 
most consistent with costochondritis based on atypical nature of 
CP and prior similar presentation on ___. The patient was ruled 
out for acute MI with negative cardiac enzymes x 3. She was 
monitored on telemetry with no events. An exercise stress test 
was performed inhouse to further evaluate for possible cardiac 
etiology, which showed fair exercise capacilty and non-specific 
EKG changes in the absence of anginal type symptoms. She had 
normal perfusion on nuclear imaging. The patient was continued 
on medical management of CAD with aspirin and BB. She was 
continued on standing ibuprofen for likely costochondritis and 
remained chest pain-free since admission. She was discharged 
with a short course of ibuprofen, and advised to follow-up with 
her PCP if pain persists. 
.  
#. Pump: The patient has no h/o systolic or diastolic CHF. She 
remained euvolemic on exam and was continued on her home BB.
.  
#. Rhythm: The patient remained in NSR with no events on 
telemetry. She was continued on her home dose of atenolol with 
no acute issues.  
.  
#. DM: The patient was continued on home insulin regimen with 
HISS inhouse and was discharged on home regimen of metformin and 
insulin.
.  
#. HTN: The patient had good BP control on home dose of atenolol 
while inhouse.
.  
#. Hyperlipidemia: The patient's most recent lipid panel showed 
LDL 81 (no need for statin). She was continued on home dose of 
niacin.
.  
#. Anemia: stable at baseline of approx. 34 with no acute 
issues.
.  
#. Depression: The patient was continued on home doses of celexa 
and risperdol.
.  
#. GERD: The patient was continued on home dose of protonix.
.  
#. The patient was discharged on ___ in good condition, VSS, 
and CP-free.
 
Medications on Admission:
Albuterol 2 puffs inhale every ___  
AMBIEN - 10MG Tablet BY MOUTH AT BEDTIME  
Atenolol - 50 mg Tablet by mouth at bedtime  
Citalopram [Celexa] - 20 mg by mouth daily  
Cyclobenzaprine - 5 mg Tablet - ___ Tablet(s) by mouth at 
bedtime  
HUMALOG ISS  
Ibuprofen - 600 mg Tablet - three times a day with food  
Lisinopril - 30 mg Tablet by mouth once a day  
Metformin - 500 mg Tablet - 2 Tablet(s) by mouth twice a day  
Niacin [Niaspan] - 500 mg Tablet Sustained Release - 1 Tablet(s) 
 
by mouth twice a day  
Pantoprazole [Protonix] - 40 mg Tablet, Delayed Release (E.C.) - 
 
1 Tablet by mouth twice a day  
RISPERDAL - 1MG Tablet - ONE PILL BY MOUTH TWICE A DAY  

 
Discharge Medications:
1. Albuterol 90 mcg/Actuation Aerosol Sig: ___ Puffs Inhalation 
Q6H (every 6 hours) as needed.  
2. Zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  

3. Atenolol 50 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) for 2 weeks.  
5. Lisinopril 10 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
6. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
7. Niacin 500 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO BID (2 times a day).  
8. Risperidone 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
9. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
11. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
12. Metformin 500 mg Tablet Sig: Two (2) Tablet PO twice a day.  

13. Insulin NPH Human Recomb 100 unit/mL Suspension Sig: 40 
units with breakfast, 30 units at bedtime units Subcutaneous 
twice a day: please use with home humalog sliding scale.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
atypical chest pain, likely costochrondritis
.
Secondary:
CAD s/p LAD stent in ___
Diabetes mellitus type 2
Hypertension
hyperlipidemia
Anemia
Arthritis
Depression
Fibromyalgia

 
Discharge Condition:
good, VSS, ambulating well, CP-free

 
Discharge Instructions:
You were admitted for chest pain, which was felt to be due to 
costochondritis. You were discharged with a short course of 
ibuprofen (NSAIDs) to treat this pain. Please follow-up with 
your PCP if this pain does not improve within two weeks. During 
the admission, testing showed that you did not have evidence of 
a heart attack. You had a stress test which showed normal 
cardiac function with no evidence of blockages as a cause for 
your chest pain. 
.
Please continue to take all medications as prescribed. Please 
attend all of your follow-up appointments as listed below.
.
If you experience new or increased chest pain, shortness of 
breath, palpitations, dizziness, or any other concerning 
symptoms please contact your PCP or go to the ER for further 
evaluation.
 
Followup Instructions:
___